US07855215B2
7-(2-Amino-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide
250 mg (0.42 mMol) of 7-(2-amino-6-chloro-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide in 35 ml methanol are hydrogenated in the presence of 160 mg Pd/C (10%; Engelhard 4505). The catalyst is filtered off, the filtrate diluted with EtOAc and sat. Na2CO3/H2O 1:1 and the separated aqueous layer extracted twice with water. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Reversed phase MPLC (Gilson system) gives the title compound: MS: [M+1]+=556; HPLC: AtRet=9.0.

reactant | 7-(2-amino-6-chloro-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide | 0.42 mMol, 250 mg | FC(C=1C=C(C=CC1CN1CCN(CC1)C)NC(=O)N1C2=C(CCCC1)C=C(C=C2)OC2=NC(=NC(=C2)Cl)N)(F)F | C28H31ClF3N7O2
solvent | methanol | 35 ml | CO | CH4O
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | 7-(2-Amino-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide | FC(C=1C=C(C=CC1CN1CCN(CC1)C)NC(=O)N1C2=C(CCCC1)C=C(C=C2)OC2=NC(=NC=C2)N)(F)F | C28H32F3N7O2
